US06369078B1
trans-N-Boc-2-methyl-6-(ethenyl propionyl)piperidine
To a stirred solution of the trans-N-Boc-2-Methyl-6-Piperidinecarboxaldehyde in CH2Cl2 (25 mL), was added ylide (carbethoxymethylene)-triphenylphosphorane (8.24 g, 23.66 mmol). The mixture was stirred at reflux for 2 hours, and another half equivalent of the ylide was added (2 g) in 4 ml CH2Cl2. The mixture was stirred overnight, and was then refluxed for 2 hours more. The mixture was concentrated by evaporation. A small amount of CH2Cl2 was added, and the mixture was immediately purified with column chromatography (silica gel, 5% EtOAc in hexanes) to afford 2.01 g (80%) of the product that was homogeneous by TLC analysis. 1H NMR (250 MHz) δ7.02-6.95 (dd, 1H), 5.83-5.77 (d, 1 H), 4.46-4.42 (m, 1 H), 4.21-4.09 (m, 3 H), 2.03-1.10 (m, 21 H); 13C NMR (62.7 MHz) 166.6 (s), 155.2 (s), 151.1 (s), 119.2 (s), 79.6 (s), 60.1 (s), 59.1 (s), 51.9 (s), 47.2 (s), 29.2 (s), 28.3 (s), 26.7 (s), 26.3 (s), 19.7 (s), 16.2 (s), 14.2 (s) ppm.

reactant | trans-N-Boc-2-Methyl-6-Piperidinecarboxaldehyde | C(=O)(OC(C)(C)C)N1[C@H](CCC[C@@H]1C=O)C | C12H21NO3
reactant | (carbethoxymethylene)-triphenylphosphorane | 23.66 mmol, 8.24 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
product | trans-N-Boc-2-methyl-6-(ethenyl propionyl)piperidine | 2.01 g, 80% | C(=O)(OC(C)(C)C)N1[C@H](CCC[C@@H]1C(CCC=C)=O)C | C16H27NO3
